US06310082B1
2-(4′-Cyanophenyl)-1-H-benzimidazole-4-carboxamide (NU1092)
Following standard procedure C, methyl 2-(4′-cyanophenyl)-1-H-benzimidazole-4-carboxylate (169.5 mg, 0.612 mmol) was treated with ammonia under pressure. The crude product was recrystallised from boiling methanol to yield the title compound pure as white crystals. (116.5 mg, 73%) mp >310° C.; Found C 67.81 H 3.89 N 20.87, C15H10N4O.0.2 MeOH Requires C 67.95 H 4.05 N 20.85; vmax(cm−1) 3332.27, 3274.86, 3177.98, 2230.85, 1658.54, 1608.10; δH 7.45-7.49 (1H, t); 7.87-7.91 (1H, d), 7.91 (1H, br s), 7.98-8.02 (1H, d); 8.13-8.17 (2H, d, J=8.3), 8.50-8.54 (2H, d, J=8.3), 9.2-9.4 (1H, br s), 13.6-13.8 (1H, br 8); m/z (EI) 262 (M+), 245, 217, 102.

reactant | methyl 2-(4′-cyanophenyl)-1-H-benzimidazole-4-carboxylate | 0.612 mmol, 169.5 mg | C(#N)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)OC | C16H11N3O2
reactant | ammonia | N | H3N
product | 2-(4′-Cyanophenyl)-1-H-benzimidazole-4-carboxamide | C(#N)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC=C2C(=O)N | C15H10N4O
